US04208186
Synthesis of 2,4-Hexadiyn-1,6-diol bis(m-tolylurethane), HDDmTU
A 500 ml 3-necked round bottom flask was fitted with a magnetic stirrer, an addition funnel and a thermometer. To the flask was added 11.0 grams (0.1 mole) of 2,4-hexadiyn-1,6-diol in 300 ml of THF, 0.5 g of di-t-butyltin-di-2-ethoxyhexanoate and 2 ml. of triethylamine. The resultant solution was stirred and 39.9 g (0.3 mole) of m-tolyl isocyanate was added dropwise over a period of half an hour. The reaction temperature was maintained at about 25° C. by a cold water bath. The reaction was allowed to proceed for 2 hours. Into the resultant solution about 1500 ml of hexane was poured. The precipitate was collected and dried under vacuum. The yield of the crude material was quantitative. Elemental and infrared analysis was conducted on a sample recrystallized from acetone-hexane, which was in the inactive form. The m.p. was 133° C. Analytical: Calculated for C,H,N,O: 70.21; 5.32; 7.45; 17.02. Found for C,H,N,O: 70.17; 5.20; 7.12; 17.21. Infrared spectrum (KBr Pellet):

reactant | 2,4-hexadiyn-1,6-diol | 0.1 mole, 11.0 grams | C(C#CC#CCO)O | C6H6O2
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | m-tolyl isocyanate | 0.3 mole, 39.9 g | C1(=CC(=CC=C1)N=C=O)C | C8H7NO
reactant | hexane | CCCCCC | C6H14
solvent | THF | 300 ml | C1CCOC1 | C4H8O
product | 2,4-Hexadiyn-1,6-diol bis(m-tolylurethane) | C1(=CC(=CC=C1)NC(=O)OCC)C.C1(=CC(=CC=C1)NC(=O)OCC)C.C(C#CC#CCO)O | InChI=1S/2C10H13NO2.C6H6O2/c2*1-3-13-10(12)11-9-6-4-5-8(2)7-9;7-5-3-1-2-4-6-8/h2*4-7H,3H2,1-2H3,(H,11,12);7-8H,5-6H2
